US04640930
A mixture of 0.4 g of (±)-cis-2,3-dihydro-5-[2-(dimethylamino)ethyl]-3-hydroxy-2-(4-methoxyphenyl)naphtho[1,8-bc]-1,5-thiazocin-4-(5H)-one hydrochloride and 8 mL of acetic anhydride was heated at 100° for 17 hours. The reaction mixture was concentrated to dryness and to the residue water, followed by concentrated ammonium hydroxide were added. The aqueous suspension was extracted with ethyl acetate. The ethyl acetate solution was washed with brine, dried (magnesium sulfate) and removal of the solvent gave 0.4 g (99%) of (±)-cis-3-(acetyloxy)-2,3-dihydro-5-[2-(dimethylamino)ethyl]-2-(4-methoxyphenyl)naphtho[1,8-bc]-1,5-thiazocin-4(5H)-one. A sample of this compound was crystallized from ether, mp. 111°-112°.

reactant | (±)-cis-2,3-dihydro-5-[2-(dimethylamino)ethyl]-3-hydroxy-2-(4-methoxyphenyl)naphtho[1,8-bc]-1,5-thiazocin-4-(5H)-one hydrochloride | 0.4 g | Cl.CN(CCN1C2=C3C(S[C@H]([C@H](C1=O)O)C1=CC=C(C=C1)OC)=CC=CC3=CC=C2)C
reactant | acetic anhydride | 8 mL | C(C)(=O)OC(C)=O | C4H6O3
product | (±)-cis-3-(acetyloxy)-2,3-dihydro-5-[2-(dimethylamino)ethyl]-2-(4-methoxyphenyl)naphtho[1,8-bc]-1,5-thiazocin-4(5H)-one | 0.4 g, 99% | C(C)(=O)O[C@H]1C(N(C2=C3C(S[C@H]1C1=CC=C(C=C1)OC)=CC=CC3=CC=C2)CCN(C)C)=O | C26H28N2O4S
